US06416939B1
Into a flask of 500 ml capacity fitted with a stirrer and cooling tube, there were introduced 7.2 g (corresponding to 0.21 mol) of an NaH oil dispersion, and 50 ml of tetrahydrofuran. The mixture was stirred on an ice-water bath. To this mixture was added, dropwise, little by little, a solution of 34.02 g of 4-nitroindole (0.21 mol) dissolved in 100 ml of tetrahydrofuran. After completion of the dropwise addition, the ice-water bath was removed and the mixture was stirred for one hour at room temperature. Then, 49.29 g (0.21 mol) of 2-chloroethyl-p-toluenesulfonate were added, and was reacted for 10 hours while stirring, heating under reflux. After completion of the reaction, the insoluble material was removed by filtration, and concentration was performed under reduced pressure. Further, this reaction mixture was purified by column chromatography using silica gel, to obtain 14.9 g of 1-(2-chloroethyl)-4-nitroindole.

reactant | NaH | 0.21 mol, 7.2 g | [H-].[Na+]
reactant | 4-nitroindole | 0.21 mol, 34.02 g | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | 2-chloroethyl-p-toluenesulfonate | 0.21 mol, 49.29 g | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-chloroethyl)-4-nitroindole | 14.9 g | ClCCN1C=CC2=C(C=CC=C12)[N+](=O)[O-] | C10H9ClN2O2
